US08871758B2
(1-Hydroxycyclobutyl)methanesulfonamide
Under inert gas, 2.00 g of N-benzylmethanesulfonamide were initially charged in 20 ml of THF, then, at a temperature of −78° C., 13.50 ml of a 1.6 N solution of butyllithium in hexane were added dropwise and the mixture was stirred at constant temperature for 5 minutes. The reaction solution was admixed with 3.23 ml of cyclobutanone and allowed to come to room temperature while stirring. After the addition of 1.24 ml of acetic acid, the volatile constituents were removed under reduced pressure. The residue was taken up in a mixture of 50 ml of ethyl acetate and 50 ml of aqueous sodium hydrogencarbonate solution, and the aqueous phase was extracted again with 50 ml of ethyl acetate. The combined organic phases were dried over MgSO4 and concentrated by rotary evaporation. The crude product thus obtained was recrystallized from ethyl acetate/n-heptane, then dissolved in 20 ml of methanol and, with addition of 0.36 g of 20% Pd(OH)2/C, stirred under a hydrogen atmosphere at 60° C. for 3 hours. After filtration to remove the solid residues, the filtrate was freed of the solvent under reduced pressure. This gave the product (1.07 g) with a molecular weight of 165.2 g/mol (C5H11NO3S).

reactant | N-benzylmethanesulfonamide | 2.00 g | C(C1=CC=CC=C1)NS(=O)(=O)C | C8H11NO2S
reactant | butyllithium | C(CCC)[Li]
reactant | cyclobutanone | 3.23 ml | C1(CCC1)=O | C4H6O
reactant | acetic acid | 1.24 ml | C(C)(=O)O | C2H4O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (1-Hydroxycyclobutyl)methanesulfonamide | 1.07 g | OC1(CCC1)CS(=O)(=O)N | C5H11NO3S
